US03968234
The compounds of Category II may be prepared in the following manner: A mixture of sesamol and cinnamyl alcohol in aqueous formic acid is refluxed to yield 2-hydroxy-4,5-methylenedioxy-cinnamylbenzene. This intermediate is then etherified in conventional manner by reaction with an appropriate alkyl halide or alkyl sulphate to yield the desired compound. The synthesis is illustrated by the following formulas. ##EQU4##

reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | cinnamyl alcohol | C(C=CC1=CC=CC=C1)O | C9H10O
solvent | formic acid | C(=O)O | CH2O2
product | 2-hydroxy-4,5-methylenedioxy-cinnamylbenzene | OC1=C(C=CCC2=CC=CC=C2)C=C2C(=C1)OCO2 | C16H14O3
